US20010041799A1
To a solution of 2-chloro-5-(trifluoromethyl)phenol (24.4 mmol, 4.8 g) in dichloromethane (160 mL) was added DMAP (54.0 mmol, 6.7 g) at -70° C. followed by triflic anhydride (36.6 mmol, 10.32 g, 6.16 mL) at −70° C. After the addition was complete, the suspension was stirred for 30 min at this temperature and then warmed to room temperature. After another 3 h, when starting material could not be detected by TLC of the reaction mixture indicated the absence of starting material, the stirred mixture was diluted with H2O (100 mL) and the two layers were separated. The aqueous layer was extracted with dichloromethane (100 mL)and then the combined dichloromethane extracts were washed with brine. The dried (MgSO4) solution was filtered and evaporated to dryness to give a colorless residue which was purified by silica gel column chromatography (hexane:diethyl ether 4: 1) to obtain 6.8 g (85%) of 2-chloro-5-(trifluoromethyl)phenol triflate as a colorless oil .HR MS: Obs. mass, 327.9388. Calcd. mass, 327.9392 (M+).

reactant | 2-chloro-5-(trifluoromethyl)phenol | 24.4 mmol, 4.8 g | ClC1=C(C=C(C=C1)C(F)(F)F)O | C7H4ClF3O
reactant | triflic anhydride | 36.6 mmol, 6.16 mL, 10.32 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 160 mL | ClCCl | CH2Cl2
catalyst | DMAP | 54.0 mmol, 6.7 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | H2O | 100 mL | O | H2O
product | 2-chloro-5-(trifluoromethyl)phenol triflate | 6.8 g, 85% | S(=O)(=O)(C(F)(F)F)OC1=C(C=CC(=C1)C(F)(F)F)Cl | C8H3ClF6O3S
